US07985753B2
4-(2-Nitro-vinyl)-benzo[1,3]dioxole
In close analogy to the procedure described above, Benzo[1,3]dioxole-4-carbaldehyde is reacted with nitromethane to provide the title compound.

reactant | Benzo[1,3]dioxole-4-carbaldehyde | O1COC2=C1C=CC=C2C=O | C8H6O3
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 4-(2-Nitro-vinyl)-benzo[1,3]dioxole | [N+](=O)([O-])C=CC1=CC=CC=2OCOC21 | C9H7NO4
